US07459451B2
To a stirred solution of tert-butyl 1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate (100 mg) in toluene (2.5 ml) was added 1N diisobutylaluminum hydride in toluene (0.92 ml) at −78° C. and the reaction mixtrue was stirred at −78° C. for 1.5 hour. Another 1N diisobutylaluminum hydride in toluene (0.4 ml) was added at −78° C. and the reaction mxitrue was stirred at −78° C. for 2.5 hours. Another 1N diisobutylaluminum hydride in toluene (0.52 ml) was added at −78° C. and the reaction mxitrue was stirred at −78° C. for 1 hour. The reaction mixture was quenched with brine, filtrated through celite pad, and the filtrate was concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluting with a mixture of EtOAc and n-hexane (2:1) to give [1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]methanol (53 mg) as a light yellow oil.

reactant | tert-butyl 1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 100 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)C(=O)OC(C)(C)C)COC | C21H26N4O3
reactant | diisobutylaluminum hydride | 1N | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diisobutylaluminum hydride | 1N | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diisobutylaluminum hydride | 1N | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.92 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.4 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.52 ml | C1(=CC=CC=C1)C | C7H8
product | [1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]methanol | 53 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)CO)COC | C17H20N4O2
